US04460596
2.8 g of ethyl 3-(4-chlorobenzoylamino)-3-(2-thienylcarbonyl)propionate, 10 ml of dimethylformamide and 1.4 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 2.2 g of ethyl 2-[2-(4-chlorophenyl)-5-(2-thienyl)-4-oxazolyl]acetate are thereby obtained.

reactant | ethyl 3-(4-chlorobenzoylamino)-3-(2-thienylcarbonyl)propionate | 2.8 g | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C=2SC=CC2)C=C1 | C17H16ClNO4S
reactant | phosphorus oxychloride | 1.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(4-chlorophenyl)-5-(2-thienyl)-4-oxazolyl]acetate | 2.2 g, Yield: 83% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C=1SC=CC1 | C17H14ClNO3S
